US04851321
200 ml of acetonitrile was added to 28.3 g of 2-dimethylaminoethanethiol hydrochloride, and after 80 ml of sodium methoxide-containing 28% methyl alcohol solution was added thereto with cooling in an ice bath, 32.9 g of ethyl 4-chloroacetoacetate was dropwise added thereto with cooling in an ice bath. After the dropwise addition, the whole was stirred for 2 hours at 40° C., and then the inorganic salt was separated by filtration and the resulting filtrate was dried under reduced pressure. The oily substance obtained was purified by silica gel column chromatography (with moving phase solvent of chloroform/methyl alcohol, 10/1) to obtain 41.8 g of ethyl 4-(2-dimethylaminoethylthio)acetoacetate. To 23.3 g of the ethyl 4-(2-dimethylaminoethylthio)acetoacetate thus-obtained were added 8.4 g of 3-amino-1,2,4-triazole and 4.0 ml of acetic acid, and the whole was heated under reflux for 4 hours. After the reaction, 100 ml of methyl alcohol was added to the reaction solution and stirred with cooling in an ice bath, and the crystal precipitate was taken out by filtration and recrystallized from 300 ml of methyl alcohol to obtain 10.2 g of the desired product. M.P.: 109°-110° C.

reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | 2-dimethylaminoethanethiol hydrochloride | 28.3 g | Cl.CN(CCS)C
reactant | sodium methoxide | 80 ml | C[O-].[Na+]
reactant | ethyl 4-chloroacetoacetate | 32.9 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | methyl alcohol | CO | CH4O
product | ethyl 4-(2-dimethylaminoethylthio)acetoacetate | 41.8 g | CN(CCSCC(CC(=O)OCC)=O)C | C10H19NO3S
